US04978476
C. 2-Amino-4-nitrothiophenol
To a stirred solution of 172.6 g (1 mole) of 2-chloro-5-nitroaniline in boiling ethanol/water (5:2) is added a solution of sodium sulfide (generated from sodium sulfide nonahydrate and sodium bicarbonate), and the reaction is heated at reflux for one hour. The mixture then is cooled in ice, and the resulting crystalline product is collected by filtration and recrystallized from water.

reactant | 2-chloro-5-nitroaniline | 1 mole, 172.6 g | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | sodium sulfide | [S-2].[Na+].[Na+]
solvent | ethanol water | C(C)O.O
product | 2-Amino-4-nitrothiophenol | NC1=C(C=CC(=C1)[N+](=O)[O-])S | C6H6N2O2S
